US04812469
2-(2,3-Dihydro-2-oxo-3-phenyl-5-benzofuranyl)-1-(4-methylpiperazinyl-1-oxoethane was prepared according to the process described in Example 3, but using 4-methylpiperazine in Stage C. The latter compound was dissolved in a solution of DL-tartaric acid to form the corresponding salt, and then recrystallized in ethyl ether.

reactant | 4-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | DL-tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
product | 4-methylpiperazinyl-1-oxoethane | Yield: 38% | CN1CCN(CC1)C(C)=O | C7H14N2O
